US05691340
EXAMPLE 90: 1-[(5-FLUOROCHROMAN-2-YL)METHYL]-4-BENZYLPIPERAZINE
By carrying out the preparation as in Example 1, but using, at the start, 1-[(5-fluorochroman-2-yl) carbonyl]-4-benzylpiperazine resulting from the condensation of 5-fluorochroman-2-carboxylic acid with N-benzylpiperazine, the title compound is obtained.

reactant | 1-[(5-fluorochroman-2-yl) carbonyl]-4-benzylpiperazine | FC1=C2CCC(OC2=CC=C1)C(=O)N1CCN(CC1)CC1=CC=CC=C1 | C21H23FN2O2
reactant | 5-fluorochroman-2-carboxylic acid | FC1=C2CCC(OC2=CC=C1)C(=O)O | C10H9FO3
reactant | N-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 1-[(5-FLUOROCHROMAN-2-YL)METHYL]-4-BENZYLPIPERAZINE | FC1=C2CCC(OC2=CC=C1)CN1CCN(CC1)CC1=CC=CC=C1 | C21H25FN2O
